US04839374
A mixture of 7.9 parts of 3-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride, 5.3 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 15 minutes using a water separator. 3.2 Parts of 2-ethenylpyridine were added at reflux temperature and stirring was continued for 3 hours at reflux using a water separator. Then there were added 3.2 parts of 2-ethenylpyridine and the whole was stirred and refluxed for 19.50 hours using a water separator. After cooling, the salts were filtered off and the filtrate was washed with water, dried, filtered and evaporated. The residue was converted into the ethanedioate salt in 2-propanone. The salt was filtered off and crystallized from a mixture of ethanol and 2-propanone, yielding 2.5 parts (17%) of 3-[(4-fluorophenyl)methyl]-2-[[1-[2-pyridinyl)ethyl]-4-piperidinyl]methyl]-3H-imidazo[4,5-b]-pyridine ethanedioate (1:3 ); mp. 143.1° C. (101).

reactant | 3-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 2-ethenylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | water | O | H2O
product | 3H-imidazo[4,5-b]-pyridine ethanedioate | C(C(=O)O)(=O)O.N1=CNC2=NC=CC=C21 | InChI=1S/C6H5N3.C2H2O4/c1-2-5-6(7-3-1)9-4-8-5;3-1(4)2(5)6/h1-4H,(H,7,8,9);(H,3,4)(H,5,6)
